US08013003B2
N-Methyl-N-(tetrahydro-2H-pyran-3-yl)-[2,1,3]-benzoxadiazole-5-carboxamide
N-(Tetrahydro-2H-pyran-3-yl)-[2,1,3]-benzoxadiazole-5-carboxamide (371 mg, 1.5 mmol) was added to a suspension of sodium hydride (216 mg, 9 mmol) in dry DMF (5 ml), followed by methyl iodide (1.0 ml) and the mixture was stirred at 20° C. for 1 hour. The solvent was evaporated under vacuum, dichloromethane (30 ml) was added and the organic phase was washed with 1N HCl (100 ml) and NaHCO3 solution (100 ml). The aqueous was re-extracted with dichloromethane (100 ml), the organics dried over magnesium sulfate and concentrated under vacuum to give the title compound as a white solid after trituration with diethyl ether (186 mg). Mp: 134-135° C., 1H NMR (300 MHz, CDCl3) δ 7.93 (d, 1H, J=9.0 Hz); 7.83 (s, 1H); 7.40 (d, 1H, J=9.0 Hz); 4.70-3.20 (m, 4H), 3.01 (sb, 3H) and 2.10-1.50 ppm (m, 4H).

reactant | N-(Tetrahydro-2H-pyran-3-yl)-[2,1,3]-benzoxadiazole-5-carboxamide | 1.5 mmol, 371 mg | O1CC(CCC1)NC(=O)C1=CC=2C(=NON2)C=C1 | C12H13N3O3
reactant | sodium hydride | 9 mmol, 216 mg | [H-].[Na+]
reactant | methyl iodide | 1.0 ml | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-Methyl-N-(tetrahydro-2H-pyran-3-yl)-[2,1,3]-benzoxadiazole-5-carboxamide | CN(C(=O)C1=CC=2C(=NON2)C=C1)C1COCCC1 | C13H15N3O3
